US09238639B2
Ethyl(6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.165 mL), (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (110 mg), ethyl(6-hydroxy-1-benzothiophen-3-yl)acetate (120 mg), and THF (5.0 mL) was added ADDP (167 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere overnight. The mixture was concentrated. To the residue was added IPE and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) and then silica gel column chromatography (EtOAc/hexane) to give the title compound (173 mg). The solid was crystallized from EtOH-hexane to give the title compound.

reactant | tri-n-butylphosphine | 0.165 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 110 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | ethyl(6-hydroxy-1-benzothiophen-3-yl)acetate | 120 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)O)=O | C12H12O3S
reactant | ADDP | 167 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Ethyl(6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 173 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)=O | C18H17F3N2O3S
